US07291616B2
Amino-acetic acid 4-[4-amino-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazin-2ylamino]-benzyl ester
A mixture of 2-tert-butoxycarbonylamino-acetic acid 4-[4-amino-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazin-2yl-amino]-benzyl ester (1.0 g, 2 mmol), dichloromethane (20 ml), and a solution of hydrogen chloride in 1,4-dioxane (4 M, 5 ml) was stirred for 12 hours. The reaction mixture was poured into ethyl acetate (100 ml). The solid filtered and dried under reduced pressure to provide the hydrochloride salt of the title compound (0.38 g, 84% yield). 1H NMR (CD3OD) δ7.75-8 (br s, 2H), 7.74 (s, 1H), 7.56-7.43 (m, 6H), 5.36 (s, 2H) 3.67 (s, 2H) 2.58 (s, 3H).

reactant | 2-tert-butoxycarbonylamino-acetic acid 4-[4-amino-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazin-2yl-amino]-benzyl ester | 2 mmol, 1.0 g | NC1=NC(=NC(=N1)C1=C(C=CC(=C1)Cl)C)NC1=CC=C(COC(CNC(=O)OC(C)(C)C)=O)C=C1 | C24H27ClN6O4
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 4 M, 5 ml | O1CCOCC1 | C4H8O2
product | Amino-acetic acid 4-[4-amino-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazin-2ylamino]-benzyl ester | 0.38 g, 84% yield | NC1=NC(=NC(=N1)C1=C(C=CC(=C1)Cl)C)NC1=CC=C(COC(CN)=O)C=C1 | C19H19ClN6O2
